US05399695
Synthesis of N-(4-methylbenzyl)-N,N-dimethylanilinium hexafluoroantimonate
12.21 g (0.1 mol) of 4-methylbenzylalcohol and 35.78 g (0.1 mol) of N,N-dimethylaniline hexafluoroantimonate were dissolved in 100 g of nitromethane and allowed to react at 80° C. for 8 hours. After the completion of the reaction, the mixture was concentrated, and the precipitated white solid was washed with ether and dried to give the titled compound. Yield: 55%.

reactant | 4-methylbenzylalcohol | 0.1 mol, 12.21 g | CC1=CC=C(CO)C=C1 | C8H10O
reactant | N,N-dimethylaniline hexafluoroantimonate | 0.1 mol, 35.78 g | F[Sb-](F)(F)(F)(F)F.CN(C1=CC=CC=C1)C
solvent | nitromethane | 100 g | [N+](=O)([O-])C | CH3NO2
product | N-(4-methylbenzyl)-N,N-dimethylanilinium hexafluoroantimonate | Yield: 55% | F[Sb-](F)(F)(F)(F)F.CC1=CC=C(C[N+](C2=CC=CC=C2)(C)C)C=C1 | InChI=1S/C16H20N.6FH.Sb/c1-14-9-11-15(12-10-14)13-17(2,3)16-7-5-4-6-8-16;;;;;;;/h4-12H,13H2,1-3H3;6*1H;/q+1;;;;;;;+5/p-6
